US04758578
N-(1-Ethoxyethylidene)-3-(2-chlorophenyl)-1,2,4-thiadiazole-5-sulfonamide
A mixture of 3 g of 3-(2-chlorophenyl)-1,2,4-thiadiazole-5-sulfonamide and 11 ml of triethyl orthoacetate was warmed to reflux for 3.5 hours. The mixture was cooled, triturated with hexane (25 ml) and filtered to give 3.13 g of solid, m.p. 70°-72° C.

reactant | 3-(2-chlorophenyl)-1,2,4-thiadiazole-5-sulfonamide | 3 g | ClC1=C(C=CC=C1)C1=NSC(=N1)S(=O)(=O)N | C8H6ClN3O2S2
reactant | triethyl orthoacetate | 11 ml | C(C)(OCC)(OCC)OCC | C8H18O3
product | N-(1-Ethoxyethylidene)-3-(2-chlorophenyl)-1,2,4-thiadiazole-5-sulfonamide | 3.13 g | C(C)OC(C)=NS(=O)(=O)C1=NC(=NS1)C1=C(C=CC=C1)Cl | C12H12ClN3O3S2
